Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Respiratory failure
 
Major Surgical or Invasive Procedure:
Intubation (OSH)
 
History of Present Illness:
___ yo female with h/o bipolar disorder and hypothyroidism who 
was transferred from ___ for respiratory failure. 
Per boyfriend, pt had been very awake for ___ days. Yesterday 
AM, he was unable to arouse her from sleep and she was still 
sleeping on return from work. This AM, he still was unable to 
rouse her and noted urinary incontinence, so he called EMS. No 
observed tonic clonic movements or bowel incontinence; no h/o 
seizure d/o. He was concerned for overdose given some 
unidentified, empty pill bottles found near her, h/o overdose 
___ years ago , and recent multiple stressors including ongoing 
psych med adjustments, recent cholecystectomy, and strained 
relationship with parents although. 
.
In the OSH ED, pt had a RR of 6 and was desatting to 70-80s on 
arrival. Urine tox positive for benzos and methadone. Pt 
received Narcan. She developed hypoxemic respiratory failure 
with ABG 7.525/33.___ requiring intubation. CT torso showed 
left lung consolidation with volume loss and distal left 
mainstem bronchus narrowing. She was given Zosyn and K 40-60 mEq 
for hypokalemia and transferred here for further evaluation.
.
In our ED, initial vs were: T 98 rectal, HR 105 with PVCs, BP 
120/60, RR 30, O2sats in low ___. Pt sedated with propofol on 
arrival but overbreathing vent. She was suctioned with 
improvement in O2sat to 100% on AC 500/16/6/100%. Labs notable 
for WBC of 17.9 with 91.6%N. Read here of OSH CT chest noted 
mediastinal shift to the left with left lung atelectasis; 
hypodense material in the airways, mostly at the left lung base; 
and pericardial effusion. Pt was given a dose of vancomycin IV. 
She also received 1L NS IV for lactate 3.2 and ___ Eq K for K 
3.2. On transfer, pt afebrile with HR 101, BP 110/64, RR ___, 
and O2 sat 100% on above vent settings with ABG 7.48/34/109.
.
On the floor, pt sedated. 
 
Past Medical History:
- Bipolar disorder
- Hypothyroidism
- EtOH neuropathy
- H/o overdose ___ years ago as above
 
Social History:
___
Family History:
Both parents alive. Mother with CHF.
 
Physical Exam:
EXAM ON ADMISSION
Vitals: T 98.4, BP 116/72, P 97, R 25, O2 98% on
General: No acute distress, intubated and sedated
HEENT: Sclera anicteric, MMM, oropharynx clear, +ETT, +OGT
Neck: Supple, JVP not elevated, no LAD
Lungs: Bronchial breath sounds R>L, no wheezes, rales, rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: Foley
Ext: Extremities mildly cool, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema

ON DISCHARGE
pt alert and oriented x3. Confused at times (could not remember 
what city she lived in). 
 
Pertinent Results:
___ 09:45PM BLOOD WBC-17.9* RBC-4.19* Hgb-13.0 Hct-38.7 
MCV-92 MCH-31.1 MCHC-33.6 RDW-16.7* Plt ___
___ 09:45PM BLOOD Neuts-91.6* Lymphs-5.9* Monos-1.4* 
Eos-0.9 Baso-0.1
___ 02:26AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-2+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Burr-2+
___ 09:45PM BLOOD ___ PTT-28.1 ___
___ 09:45PM BLOOD Glucose-131* UreaN-16 Creat-0.8 Na-140 
K-3.2* Cl-102 HCO3-25 AnGap-16
___ 01:09AM BLOOD Albumin-3.2* Calcium-7.8* Phos-2.6* 
Mg-1.9
___ 09:45PM BLOOD ALT-21 AST-42* AlkPhos-86 TotBili-0.8
___ 09:45PM BLOOD Lipase-20
___ 09:52PM BLOOD Lactate-3.2* K-3.2*
.
___ 01:09AM BLOOD TSH-54*
___ 02:26AM BLOOD Free T4-<0.10*
___ 03:13AM BLOOD Cortsol-26.6*
.
___ 09:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:45PM URINE bnzodzp-POS barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-POS
.
___ 06:24AM BLOOD TSH-80*
___ 06:24AM BLOOD T4-4.1* Free T4-0.73*
.
___ 1:08 am SPUTUM      Source: Endotracheal. 
   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH OROPHARYNGEAL FLORA. 
      STAPH AUREUS COAG +.    MODERATE GROWTH.  
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
.
___hest:
1. Left lung collapse with leftward shift of the mediastinal 
structures.
Hypodense material within the airways of the left lung, mostly 
within the left lung base which could be aspirated material or 
mucous impaction. Bronchoscopy is recommended for further 
evaluation.
2. Small to moderate-sized pericardial effusion.
3. Ill-defined nodular opacities in the right lower lobe which 
could indicate small airway disease or aspiration.
.
___ CT Thorax:
1. Residual dense consolidation in the left lower lobe.
2. Patchy consolidation in the left upper lobe but increased 
aeration of the left upper lobe compared to prior study.
3. Patchy atelectasis in the right upper and lower lobes.
4. Small pleural effusions which have developed since the prior 
study
bilaterally. Moderate pericardial effusion which has increased 
from prior
study. 
5. Small amount of free fluid in the gallbladder fossa and in 
the pelvis.
.
___ Video Swallow Eval:

___ Chest xray: FINDINGS: The NG tube passes along the 
expected route of the esophagus, into the stomach. Comparison to 
the previous study shows the left lower lobe atelectasis has 
cleared. The right lower lobe border is not seen but the lungs 
are clear with no mass, consolidation, pneumothorax or pleural 
effusion. Heart and mediastinal structures are normal.
IMPRESSION: Satisfactory position of the NG tube. The lungs are 
clear.

 
Brief Hospital Course:
___ yo female with h/o bipolar disorder and hypothyroidism who 
presented to OSH with increased lethargy and hypoxemic 
respiratory failure requiring intubation and found to have left 
lung collapse.
.
# Respiratory failure: Bronchoscopy on admission without 
evidence of obstructive lesion. Left lung collapse thought to be 
secondary to consolidative pneumonia with copious secretions. 
Respiratory cultures grew out pansensitive MSSA, and initial 
broad coverage with vanc, zosyn, and levofloxacin pared down to 
zosyn and then to nafcillin. Multiple bronchs done given 
persistent copious sputum with gradual improvememt in purulent 
secretions seen in left lung, pt eventually extubated s 
complication. ___ placed for long-term administration of abx, 
pt recieved total of 14day course, last day: ___. 
.
# Hypothyroidism: Poorly controlled per PCP records with concern 
in past that pt may have been abusing medications for weight 
control. She last filled her prescription for armourthyroid in 
___ per her pharmacy. Here, TSH level was 54 with a free T4 of 
<0.1. Thought to be myxedematous per Endo but not myxedema coma. 
Cortisol level normal. Given synthroid with loading dose of 300, 
then 75mcg IV daily. On the day of discharge pt was transitioned 
to PO synthroid ___ mcg). Most recent TSH was 80 and free T4 
0.73.
.
# Altered mental status: Pt initially responsive only to pain. 
This was thought ___ to untreated hypothyrodism v. polypharmacy 
v. underlying bipolar disorder v severe infection. No h/o 
seizure disorder per OSH records. Utox positive for methadone 
and benzos; pt did receive narcan at OSH. Altered mental status 
persisted on arrival. Started on synthroid per endo recs for 
myxedema. Her home psych meds of topiramate and divalproex were 
restarted, her seroquel, clonazepam, provigil, and zolpidem were 
initally held pending improvement. Seroquel and clonazepam 
subsequently restarted at lower dose per psych recs. Seroquel 
was then d/ced as pt's home psychiatrist confirmed pt was no 
longer on this medication and it appeared to lengthen her QT. As 
pt improved clinically, she went from somnolent to delirious. 
Her delirium improved daily. Hopefully pt will continue to 
improve back to her baseline, though cannot exclude the 
possibility of anoxic brain injury ___ her respiratory status 
prior to admission. Pt was occasionally agitated at night. 
Agitation was treated initially with haldol but because of her 
improving mental status and lengthening QT, this was changed to 
occasional prn ativan 0.5mg which had good effect. Would 
definitely AVOID haldol and seroquel in the future.
. 
# CHEST PAIN: pt had one short episode of chest pain which 
resolved c nitroglycerin. Pt's EKG was found to have 1mm ST 
depression in V3-5 (most prominent in EKGs from ___ at 
9:30am) and pt was ruled out with three sets of negative enzymes 
(trop 0.03, 0.02, 0.02). Pt will follow-up with cardiology as 
outpt to determine the need for stress testing. Pt was started 
on asa 81mg, though cardiology may decide to discontinue.
.
# Ileus: Pt developed large bowel ileus without evidence of 
small bowel obstruction (perhaps ___ hypothyroid?). Placed on 
bowel rest with OG tube to suction with aspiration of feculant 
matter. Resolved after several days with aggressive bowel 
regimen. Pt discharged on reglan which pt should be able to 
discontinue as her hypothyroid resolves.
.
# Metabolic acidosis: Pt c nonanion gap metabolic acidosis, 
likely ___ normal saline. Type 1 or 2 RTA was considered as pt 
was also hypokalemic. However, pt's urine lytes and urine pH 
were not completely consistent with either type of RTA.
.
# Pericardial effusion: TTE showed only small pericardial 
effusion (appeared moderate on chest CT) with no evidence of 
tamponade. Pt did not have elevated pulsus paridoxus.
.
# FEN/SWALLOW EVAL: Pt initially received tube feeds. Speech and 
swallow did a video evaluation which showed some aspiration risk 
so pt was started on thickened liquids and pureed solids. Pt 
should follow up for further evaluation while at rehab.
.
# Prophylaxis: Subcutaneous heparin
.
# Communication: No HCP. Boyfriend ___ ___ H, 
___. Father ___ ___ (currently 
fighting; mother in hospital). Sister ___ in ___ ___ 
H, ___ C. Also has 4 stepbrothers.
 
Medications on Admission:
In bag with patient:
- Propoxyphene-APAP 1 tab q8h prn
- Divalproex ER 1000mg qhs
- Topirimate 200mg bid
- Provigil 200mg tid
- Seroquel 300mg ___ tabs qhs
- Zolpidem 10mg qhs prn
- Clonazepam 1 mg 5x/day
.
Per Rite-Aid (___):
- Seroquel 300mg ___ tabs qhs
- Divalproex ER 500mg 2 tab qhs
- Topimax 200mg 1 tab bid
- Darvocet 1 tab q8h prn
- Clonazepam 1mg 5x/day
- Provigil 200mg 1 tab tid
- Armourthyroid 90 mg 1 tab bid (last filled ___ m ago)
 
Discharge Medications:
1. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day): please only give if patient is 
not out of bed qshift.  
2. Topiramate 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
4. Divalproex ___ mg Capsule, Sprinkle Sig: Two (2) Capsule, 
Sprinkle PO QID (4 times a day).  
5. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
8. Miconazole Nitrate 2 % Cream Sig: One (1) Appl Vaginal HS (at 
bedtime) for 4 days.  
9. Docusate Sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)): Please 
discontinue if pt having more than 1 BM per day.  
12. Multi-Vitamin W/Minerals     Capsule Sig: One (1) Capsule PO 
once a day.  
13. Synthroid ___ mcg Tablet Sig: One (1) Tablet PO once a day. 
Tablet(s) 
14. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for headache. Tablet(s) 
15. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for severe agitation.  
16. Outpatient Lab Work
Please check a valproate level on ___ and call the 
result to Dr ___ psychiatrist) at ___, please 
verbally confirm with her doctor ___ his representative) that 
her valproate dose is appropriate. 

Please check TSH and free T4 on ___ and ___ and call the 
result to Dr ___ endocrinologist) at ___, please 
verbally confirm that her doctor ___ his representative) that 
the synthroid dose is appropriate. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis: MSSA pneumonia, hypothyroid
secondary diagnoses: bipolar disorder

 
Discharge Condition:
fair

 
Discharge Instructions:
FOR PATIENT:
You were admitted to the hospital because of a very bad 
pneumonia. You initially went to the intensive care unit where 
you had a breathing tube to help you breathe and you received 
antibiotics. You were also found to have very low thyroid 
hormone as you had not been taking your thyroid medicine at 
home. We restarted you on a new thyroid medicine called 
synthroid. You were also started on a cream for yeast infection 
(which you were found to have) and daily aspirin.

We aren't sure what happened right before you came to the 
hospital, and you can't remember either, but it is possible that 
you took too much of one of your medicines or perhaps took 
medicines that had been prescribed for someone else. It is very 
important that you take your medicines exactly as prescribed and 
that you do not take any medicines that were prescribed for 
anyone but you.

We asked you if it was possible that you took extra medicine in 
order to purposefully harm yourself but you assured us that this 
was not the case. If you feel like you are at risk of harming 
yourself in the future please call your psychiatrist or go to 
the emergency room.

Lastly, you developed a short period of chest pain while you 
were in the hospital. We are going to have you see a 
cardiologist and are also starting you on a baby aspirin per 
day. When you see the cardiologist he or she may want to stop 
the aspirin or change your medicines. 

You were seen by swallowing specialists at the hospital and they 
felt that your swallowing may be a little impaired. For now, you 
should drink thickened liquids and eat pureed solids. Your rehab 
will reevaluate your swallowing abilities and hopefully you will 
be able to eat normal food very soon. 

Please call your doctor or return to the hospital if you are 
having  chest pain, shortness of breath, fevers or for any other 
symptoms which are concerning to you. 

FOR REHAB:
PLEASE DO NOT GIVE SEROQUEL AS ___ DEVELOPED LONG QT (QTc of 512) 
ON SEROQUEL ALONE. Would also be wary of other antipsychotics. 
If acutely agitated can give ativan 0.5.

Please give the following medicines:  Heparin (Porcine)  5,000 
unit/mL Solution  Sig:  One (1) Injection TID (3 times a day): 
please only give if patient is not out of bed qshift.     
  Topiramate  100 mg Tablet  Sig:  Two (2) Tablet PO BID (2 
times a day).     
  Senna  8.6 mg Tablet  Sig:  One (1) Tablet PO BID (2 times a 
day) as needed for constipation.     
  Divalproex  ___ mg Capsule, Sprinkle  Sig:  Two (2) Capsule, 
Sprinkle PO QID (4 times a day).     
  Clonazepam  1 mg Tablet  Sig:  One (1) Tablet PO BID (2 times 
a day).     
  Thiamine HCl  100 mg Tablet  Sig:  One (1) Tablet PO DAILY 
(Daily).     
  Bisacodyl  5 mg Tablet, Delayed Release (E.C.)  Sig:  Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.     
  Miconazole Nitrate  2 % Cream  Sig:  One (1) Appl Vaginal HS 
(at bedtime) for 4 days.     
  Docusate Sodium  50 mg/5 mL Liquid  Sig:  One (1) PO BID (2 
times a day).     
  Aspirin  81 mg Tablet, Chewable  Sig:  One (1) Tablet, 
Chewable PO DAILY (Daily).     
  Metoclopramide  10 mg Tablet  Sig:  One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)): Please 
discontinue if pt having more than 1 BM per day.     
  Multi-Vitamin W/Minerals   Capsule  Sig:  One (1) Capsule PO 
once a day.     
  Synthroid  ___ mcg Tablet  Sig:  One (1) Tablet PO once a day. 
 Tablet(s)   
  Acetaminophen  325 mg Tablet  Sig:  ___ Tablets PO Q6H (every 
6 hours) as needed for headache.  Tablet(s)   
  Lorazepam  0.5 mg Tablet  Sig:  One (1) Tablet PO HS (at 
bedtime) as needed for severe agitation 

Please check a valproate level on ___ and call the 
result to Dr ___ psychiatrist) at ___, please 
verbally confirm with her doctor ___ his representative) that 
her valproate dose is appropriate. 

Please check TSH and free T4 on ___ and ___ and call the 
result to Dr ___ endocrinologist) at ___, please 
verbally confirm that her doctor ___ his representative) that 
the synthroid dose is appropriate. 

Please monitor vital signs per routine and call Dr ___ 
PCP, for concerning values (HR >105 or <65, BP >160/90 or BP 
<95/55, oxygen saturation <93% on RA) at ___.

Please continue to treat pt's unstagable decubitus ulcers, on 
both hips, per nursing notes. Site: Left hip
Description: 3x2 unstagable pressure ulcer on L hip. wound bed 
is yellow. Surrounding skin is intact. 
Care: cleanse with wound cleanser. Apply mepilex q3 days and PRN

Pt needs ___, OT, speech and swallow and social work involvement.

 
Followup Instructions:
___